### PR TITLE
New free construction + big_split_ord_idem

### PR DESCRIPTION
**Pull request by CohenCyril**
- adding a new free construction (refactoring the old one)
- new version of big_split_ord with an idempotent

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: boot/bigop.v [hunk 1]
```diff
@@ -2234,24 +2237,46 @@ Arguments big_cat_nat [R idx op n m p P F].
 Arguments big_pmap [R idx op J I] h [r].
 Arguments telescope_big [R idx op] f [n m].
 
-Section IncreasingSemiGroup.
+Section SemiGroupWithOneCommutativeAndIdempotent.
+Import Monoid.
+Variables (R : Type) (op : SemiGroup.law R).
+Context [x : R].
+Hypothesis opxx : op x x = x.
+Hypothesis opxC : forall a, op x a = op a x.
```
Comment (proux01) [inline boot/bigop.v:2297]: Why not use `idempotent` and `commutative` here?

Comment (CohenCyril) [reply boot/bigop.v:2297]: because it is just for a single element

**Review by affeldt-aist — APPROVED** [review]
This is helping in MathComp-Analysis so the better the sooner.

**Review by proux01 — COMMENTED** [review]
Looks essentially good, just missing:
* update of header doc in bigop.v
* deprecation of removed things: `oAC`, `oACE`, `some_big_AC_mk_monoid`, `big_AC_mk_monoid`

File: boot/bigop.v [hunk 2]
```diff
@@ -104,8 +104,9 @@ From mathcomp Require Import div fintype tuple finfun.
 (*                       for operators satisfying the Monoid interfaces,      *)
 (*                       exports SemiGroup.Theory                             *)
 (*       Monoid.simpm == generic monoid simplification rewrite multirule      *)
-(*             oAC op == convert an AC operator op : T -> T -> T              *)
-(*                       to a Monoid.com_law on option T                      *)
+(*            olaw op == extends a law on T to a law on option T, it is       *)
+(*                       canonically a Monoid.law when op is a SemiGroup.law  *)
+(*                       a Monoid.com_law when op is a SemiGroup.com_law      *)
```
Comment (affeldt-aist) [inline boot/bigop.v]:
```suggestion
(*                       canonically a Monoid.law when op is a SemiGroup.law, *)
(*                       and a Monoid.com_law when op is a SemiGroup.com_law  *)
```

**Review by proux01 — APPROVED** [review]
I think it can be squashed and merged as soon as CI is happy

File: boot/bigop.v [hunk 3]
```diff
@@ -851,45 +852,99 @@ by elim/big_rec2: _ => // j x y Pj [Qx <-]; rewrite [Q _]Qop ?fop ?QF.
...
 
-Lemma oopx1_subdef : left_id None oop. Proof. by case. Qed.
-Lemma oop1x_subdef : right_id None oop. Proof. by []. Qed.
+Let oopx1_subdef : left_id None oop. Proof. by case. Qed.
+Let oop1x_subdef : right_id None oop. Proof. by []. Qed.
 
-Lemma oopC_subdef : commutative oop.
-Proof. by move=> [x|] [y|]//; rewrite /oAC/= opC. Qed.
+Let oopC_subdef : commutative oop.
+Proof. by move=> [x|] [y|]//; rewrite /oop/= opC. Qed.
```
Comment (pi8027) [inline boot/bigop.v:924]: I believe that these changes from `Lemma` to `Let` should be documented in CHANGELOG (as "removed"?). See the last paragraph of: https://github.com/math-comp/math-comp/blob/08bc6cd9a78722a34d3c89b614cefc47a665b965/CONTRIBUTING.md#breaking-changes-and-deprecations

Comment (proux01) [reply boot/bigop.v:924]: I would say that the naming `_subdef` was clear enough about the internal status of these lemmas, so no need to document their removal. I forgot that we commited to document removal of internal things (which feels a bit strange by the way).

Comment (pi8027) [reply boot/bigop.v:924]: Well, that was your suggestion. Perhaps, I didn't pay enough attention to “if reasonable”: https://github.com/math-comp/math-comp/pull/1563#issuecomment-4090960671
